US07718663B2
tert-butyl (1R,2S)-2-[(2-chloro-6-methylquinazolin-4-yl)amino]cyclohexylcarbamate
To a solution of 4.80 g of 2,4-dichloro-6-methylquinazoline in 100 ml of methylene chloride, 9.12 g of triethylamine and 5.31 g of (1S,2R)-2-(t-butoxycarbonylamino)cyclohexylamine were added, and then the mixture was stirred at room temperature for 24 hours. The reaction solution was concentrated, mixed with water, extracted with methylene chloride and then dried. The solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to obtain 8.30 g of the desirable compound.

reactant | 2,4-dichloro-6-methylquinazoline | 4.80 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | triethylamine | 9.12 g | C(C)N(CC)CC | C6H15N
reactant | (1S,2R)-2-(t-butoxycarbonylamino)cyclohexylamine | 5.31 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)N | C11H22N2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (1R,2S)-2-[(2-chloro-6-methylquinazolin-4-yl)amino]cyclohexylcarbamate | 8.30 g | ClC1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)C | C20H27ClN4O2
